US08076358B2
Step E: 6-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-7-fluoro-3-(tetrahydro-pyran-4-ylmethyl)-quinolin-2-ylamine
In three μwave tubes 3-[5-(3-[1,3]dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile (0.25 g, 0.52 mmol, each tube), Zn (3 g, 0.046 mol, each tube), NH4Cl (0.98 g, 0.018 mol, each tube), CH3OH (3 mL, in each tube), and THF (1 mL, in each tube) were reacted via μwave @ 300W, 130° C. for 12 min. The resulting mixtures were combined, filtered through Celite®, and the solvent removed to yield a residue, which was purified by silica column chromatography (50% EtOAc/heptanes) to yield a solid.

reactant | 3-[5-(3-[1,3]dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile | 0.52 mmol, 0.25 g | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C1)C=C(C#N)CC1CCOCC1)[N+](=O)[O-])F | C25H25FN2O5S
reactant | NH4Cl | 0.018 mol, 0.98 g | [NH4+].[Cl-]
reactant | CH3OH | 3 mL | CO | CH4O
catalyst | Zn | 0.046 mol, 3 g | [Zn] | Zn
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-7-fluoro-3-(tetrahydro-pyran-4-ylmethyl)-quinolin-2-ylamine | O1C(OCCC1)C=1C=C(C=CC1)SC=1C=C2C=C(C(=NC2=CC1F)N)CC1CCOCC1 | C25H27FN2O3S
